US07429568B2
To a solution of 3-(β-D-glucopyranosyloxy)-4-[(4-iso-propoxyphenyl)methyl]-5-methyl-1H-pyrazole (1.3 g) in tetrahydrofuran (30 mL) was added N-(benzyloxycarbonyloxy)-succinimide (1.6 g), and the mixture was heated under reflux overnight. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=10/1) to give 1-(benzyloxycarbonyl)-3-(β-D-glucopyranosyloxy)-4-[(4-isopropoxyphenyl)methyl]-5-methylpyrazole (1.3 g).

reactant | 3-(β-D-glucopyranosyloxy)-4-[(4-iso-propoxyphenyl)methyl]-5-methyl-1H-pyrazole | 1.3 g | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NNC(=C1CC1=CC=C(C=C1)OC(C)C)C | C20H28N2O7
reactant | N-(benzyloxycarbonyloxy)-succinimide | 1.6 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 1-(benzyloxycarbonyl)-3-(β-D-glucopyranosyloxy)-4-[(4-isopropoxyphenyl)methyl]-5-methylpyrazole | 1.3 g | C(C1=CC=CC=C1)OC(=O)N1N=C(C(=C1C)CC1=CC=C(C=C1)OC(C)C)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C28H34N2O9
